US05110956
(a) Sodium 2-[{2-(1,3-benzodioxol-5-yl)ethyl}thio]-ethanesulfonate
15 g of 2-(1,3-benzodioxol-5-yl)ethanethiol and 17.4 g of sodium 2-bromoethanesulfonate were dissolved in a mixture of 280 ml of ethanol and 120 ml of water. 3.3 g of sodium hydroxide was added to the solution and the mixture was heated under reflux for 1 h. The reaction mixture was concentrated and 500 ml of ethyl acetate and 500 ml of water were added thereto. After separation of the layers, the aqueous layer was acidified with hydrochloric acid. After extraction with n-butanol, the extract was washed with a saturated aqueous common salt solution. The solvent was distilled off to obtain 19 g of a faint yellow residue. This product was dissolved in a solution of 2.94 g of sodium hydroxide in dilute methanol and recrystallized therefrom to obtain 14.7 g of the intended compound in the form of colorless crystals.

reactant | 2-(1,3-benzodioxol-5-yl)ethanethiol | 15 g | O1COC2=C1C=CC(=C2)CCS | C9H10O2S
reactant | sodium 2-bromoethanesulfonate | 17.4 g | BrCCS(=O)(=O)[O-].[Na+]
reactant | sodium hydroxide | 3.3 g | [OH-].[Na+]
solvent | ethanol | 280 ml | C(C)O | C2H6O
solvent | water | 120 ml | O | H2O
product | Sodium 2-[{2-(1,3-benzodioxol-5-yl)ethyl}thio]-ethanesulfonate | 19 g | O1COC2=C1C=CC(=C2)CCSCCS(=O)(=O)[O-].[Na+] | InChI=1S/C11H14O5S2.Na/c12-18(13,14)6-5-17-4-3-9-1-2-10-11(7-9)16-8-15-10;/h1-2,7H,3-6,8H2,(H,12,13,14);/q;+1/p-1
